US07629383B2
Synthesis of nonanedioic acid 1-(ethoxycarbonyloxy)-ethyl ester methyl ester
A heterogeneous solution of Cs2CO3 (1.30 g, 4.0 mmol), NaI (30 mg, 0.20 mmol) and nonanedioic acid monomethyl ester (0.95 g, 4.0 mmol) in THF (15 ml) was stirred for ½ hour at 60° C. 1-Chloroethyl ethyl carbonate (0.61 g, 4.0 mmol) in THF (5 ml) was added dropwise to the solution and stirred at 60° C. for 48 hours. The reaction mixture was cooled to room temperature and evaporated in vacuo. Diethyl ether (25 ml) was added and the residue was washed with saturated NaHCO3 (3×25 ml), dried with MgSO4 and filtered. Evaporation in vacuo gave the product as a colourless oil (0.96 g, 75.1%). 1H-NMR (CDCl3) δ 6.74 (q, 1H), 4.19 (q, 2H), 3.64 (s, 3H), 2.34-2.24 (m, 4H), 1.63-1.53 (m, 4H), 1.49 (d, 2H), 1.33-1.24 (m, 9H). 13C-NMR (CDCl3) δ 174.55, 172.04, 162.92, 153.39, 91.48, 64.75, 51.79, 36.85, 34.37, 31.78, 29.24, 25.19, 24.82, 19.09, 14.48.

reactant | Cs2CO3 | 4.0 mmol, 1.30 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | nonanedioic acid monomethyl ester | 4.0 mmol, 0.95 g | COC(CCCCCCCC(=O)O)=O | C10H18O4
reactant | 1-Chloroethyl ethyl carbonate | 4.0 mmol, 0.61 g | C(OC(C)Cl)(OCC)=O | C5H9ClO3
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | NaI | 0.20 mmol, 30 mg | [Na+].[I-]
product | nonanedioic acid 1-(ethoxycarbonyloxy)-ethyl ester methyl ester | 0.96 g, 75.1% | COC(CCCCCCCC(=O)OC(C)OC(=O)OCC)=O | C15H26O7
